US03950333
Reacting 2-chloropyrazine with 1,3-diaminopropane in ethanol containing sodium ethoxide by the procedure of Example 89 gives 2-(3-aminopropylamino)-pyrazine.

reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 1,3-diaminopropane | NCCCN | C3H10N2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-aminopropylamino)-pyrazine | NCCCNC1=NC=CN=C1 | C7H12N4
